US06262056B1
1-(benzo[b]thiophen-3-yl)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-1-ol (VN-2222)
To 500 mg of 1-(benzo[b]thiophen-3-yl)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-1-one hydrochloride (1.20×10−3 moles) in 30 ml of MeOH a 0° C. was added NaBH4 for about 20 min until the reaction ceased to evolve. After two hours 50 ml of H2O were added to the medium, it was stirred for a few minutes and was extracted twice with 200 ml of AcOEt. The organic phase was washed three times with H2O, was dried with Na2SO4 and the solvent was removed. It was purified in silica column with AcOEt/hexane (1:1). The free base was thus obtained in form of a white solid. Yield: 30%. Two polymorphic forms of this product were obtained, the melting points of which were 108° C. and 120° C. respectively.

reactant | 1-(benzo[b]thiophen-3-yl)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-1-one hydrochloride | 1.20×10−3 moles, 500 mg | Cl.S1C2=C(C(=C1)C(CCN1CCN(CC1)C1=C(C=CC=C1)OC)=O)C=CC=C2
reactant | NaBH4 | [BH4-].[Na+]
reactant | H2O | 50 ml | O | H2O
solvent | MeOH | 30 ml | CO | CH4O
product | 1-(benzo[b]thiophen-3-yl)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-1-ol | Yield: 30% | S1C2=C(C(=C1)C(CCN1CCN(CC1)C1=C(C=CC=C1)OC)O)C=CC=C2 | C22H26N2O2S
